US05430144
3-[(Furan-2-yl)methyl]amino-3-methyl-N-[2,3,4,5-tetrahydro-4-oxo-5-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-1,5-benzothiazepin-3(S)-yl]butanamide
The title compound is prepared from 3-amino-3-methyl-N-[3,4-dihydro-4-oxo-5-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-1,5-benzothiazepin-3(S)-yl]butanamide trifluoroacetate (prepared by the method of M. Fisher, et al, U.S. Pat. No. 5,206,235) and furfuraldehyde by the procedures described in Example 1.

reactant | 3-amino-3-methyl-N-[3,4-dihydro-4-oxo-5-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-1,5-benzothiazepin-3(S)-yl]butanamide trifluoroacetate | FC(C(=O)O)(F)F.NC(CC(=O)N[C@@H]1CSC2=C(N(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=CC=C2)(C)C
reactant | furfuraldehyde | C(C1=CC=CO1)=O | C5H4O2
product | 3-[(Furan-2-yl)methyl]amino-3-methyl-N-[2,3,4,5-tetrahydro-4-oxo-5-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-1,5-benzothiazepin-3(S)-yl]butanamide | O1C(=CC=C1)CNC(CC(=O)N[C@@H]1CSC2=C(N(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=CC=C2)(C)C | C33H33N7O3S
